### ISSUE TITLE
“implicit lambda” works with `exact`, but not `apply`

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#5366]
I find this surprising:

```lean
example : {a : Nat} → a+1 = a.succ := rfl -- works
example : {a : Nat} → a+1 = a.succ := by exact rfl -- works
example : {a : Nat} → a+1 = a.succ := by apply rfl -- does not work
```

As a user I expect to `apply` work when `exact` works.

By using a wrong term we can see a bit more what’s happening:
```lean
example : {a : Nat} → a+1 = a.succ := by exact Iff.rfl

type mismatch
  Iff.rfl
has type
  ?m.960 ↔ ?m.960 : Prop
but is expected to have type
  a✝ + 1 = a✝.succ : Prop
the following variables have been introduced by the implicit lambda feature
  a✝ : Nat
you can disable implicit lambdas using `@` or writing a lambda expression with `{}` or `[]` binder annotations.
```

So `exact` somehow triggers “implicit lambda feature” but `apply` doesn’t. Should it?

### Versions

4.12.0-nightly-2024-09-16

### Additional Information

This causes unexpected(?) regressions(?) when using `@[refl]` rather than extending the `rfl` macro, #5359.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
I haven’t interacted with the “implicit lambda feature” a lot yet, so I don’t have a good sense whether we have a problem here, and what the proper fix is.

**Comment by Parcly-Taxel** [comment]
[Zulip](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/apply.20weaker.20than.20exact/near/470882156) seems to indicate that there is no problem here and that `apply` and `exact` need not have any strict relationship in strength.

**Comment by nomeata** [comment]
Hmm, but then the question is: Should `applyRfl` (and this `rfl`) behave like `exact` instead of `apply`? It's muddy:

* We do have proofs in mathlib that requires the strength of `apply` here (approximate defeq), so switching to `exact` breaks something else.
* It would be great if `rfl` can always be replaced by the chosen refl lemma, with some basic lemma like `apply` or `exact`.
* It cannot be the solution to just keep the macro for `Iff.refl` around. Why `Iff` and not also all the other lemmas with `[simp]`, like `Perm.refl`?

If these are accepted premises, it seems the only solutions are
* use either `apply` or `exact` in applyRfl and live with the fallout or
* Make `exact` stronger

**Comment by nomeata** [comment]
Related to #5359  and `Iff.rfl` specifically:

Currently (in lean stable, with the `Iff.rfl` macro) we have this behavior:
```
example : {a : Nat} → a+1 = a.succ         := by rfl        -- doesn’t work
example : {a : Nat} → a+1 = a.succ         := by intro; rfl -- works
example : {a : Nat} → a+1 = 5 ↔ a.succ = 5 := by rfl        -- works
example : {a : Nat} → a+1 = 5 ↔ a.succ = 5 := by intro; rfl -- works
```
This difference between `Eq` and `Iff` is silly!

Without #5359 we are getting
```
example : {a : Nat} → a+1 = a.succ         := by rfl        -- doesn’t work
example : {a : Nat} → a+1 = a.succ         := by intro; rfl -- works
example : {a : Nat} → a+1 = 5 ↔ a.succ = 5 := by rfl        -- doesn’t work
example : {a : Nat} → a+1 = 5 ↔ a.succ = 5 := by intro; rfl -- works
```
which I find more consistent and sensible. 

This points to “using the `rfl` tactic should not implicitly introduces lambdas”, and thus https://github.com/leanprover/lean4/pull/5359 was a step in the wrong direction, and the there mentioned adaption fixes should just stay (i.e. write `intro; rfl` if the goal isn't a reflexive relation yet).

@semorrison, what do you think?

**Comment by digama0** [comment]
Your comment just made me realize that we have a funny inconsistency in precedence:
```lean
example : ((a : Nat) → True ↔ True) = ((a : Nat) → (True ↔ True)) := rfl
example : (Nat → True ↔ True) = ((Nat → True) ↔ True) := rfl
```

**Comment by kmill** [comment]
> If these are accepted premises, it seems the only solutions are ...

I mentioned this privately, but I figured I'll mention a couple other ideas here as well:
* Make `rfl` be "binder tolerant" like mathlib's `subsingleton` tactic. That is, make it work as if it begins with `intros`. This minor amount of automation is a nicety, and it sidesteps questions about implicit lambda being active or not.
* Adjust `Lean.Elab.Tactic.elabTermEnsuringType` to do its defeq check with approximations enabled. This is justified by the fact that the defeq check is "post-elaboration", and the tactic otherwise fails if the defeq check fails. Users likely would accept approximate solutions from `exact` and `refine` (and maybe even want them!).

**Comment by nomeata** [comment]
Hmm, both tempting ideas.

As for the first suggestion: I’m always a bit hesitant to make tactics do more than they have to do. Why should `rfl` (a tactic to solve reflexive goals) do `intros`, and shouldn’t by the same reason essentially every tactic do `intros`?

Personally I would find having to do stuff like this acceptable:
```patch
diff --git a/Mathlib/Algebra/Category/Ring/Basic.lean b/Mathlib/Algebra/Category/Ring/Basic.lean
index f195911a46493..8493abcccb639 100644
--- a/Mathlib/Algebra/Category/Ring/Basic.lean
+++ b/Mathlib/Algebra/Category/Ring/Basic.lean
@@ -391,7 +391,7 @@ instance hasForgetToSemiRingCat : HasForget₂ CommSemiRingCat SemiRingCat :=
 instance hasForgetToCommMonCat : HasForget₂ CommSemiRingCat CommMonCat :=
   HasForget₂.mk' (fun R : CommSemiRingCat => CommMonCat.of R) (fun R => rfl)
     -- Porting note: `(_ := _)` trick
-    (fun {R₁ R₂} f => RingHom.toMonoidHom (α := R₁) (β := R₂) f) (by rfl)
+    (fun {R₁ R₂} f => RingHom.toMonoidHom (α := R₁) (β := R₂) f) (by intros; rfl)
 
 /--
 Ring equivalence are isomorphisms in category of commutative semirings
@@ -549,7 +549,7 @@ instance hasForgetToRingCat : HasForget₂ CommRingCat RingCat :=
 /-- The forgetful functor from commutative rings to (multiplicative) commutative monoids. -/
 instance hasForgetToCommSemiRingCat : HasForget₂ CommRingCat CommSemiRingCat :=
   HasForget₂.mk' (fun R : CommRingCat => CommSemiRingCat.of R) (fun R => rfl)
-    (fun {R₁ R₂} f => f) (by rfl)
+    (fun {R₁ R₂} f => f) (by intros; rfl)
 
 instance : (forget₂ CommRingCat CommSemiRingCat).Full where map_surjective f := ⟨f, rfl⟩
```


The second suggestion does make sense to me, but I’m not an expert here.

**Comment by kmill** [comment]
An argument in support of auto-`intros` is that `rfl` is meant to be a closing tactic, and `intros; rfl` is a common pattern. Plus, `intros` never makes `rfl` fail, and it's cheap.

I think there are a number of closing tactics that could be improved with auto-`intros`, like perhaps `ring` and `linarith`, but I'd imagine the impact would be low due to it being rare to need `intros` before them. Non-closing tactics like `simp`/`apply`/`exact`/etc. would get really messed up by auto-`intros`.
